US07629363B2
Step 1: Preparation of 4-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-2-oxopyridin-1(2H)-yl]-3-fluoro-5-hydroxybenzonitrile
4-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-2-oxopyridin-1(2H)-yl]-3,5-difluorobenzonitrile (522 mg, 1.28 mmol) and potassium trimethylsilonate 90% (655 mg, 4.60 mmol) are combined in 8 ml anhydrous tetrahydrofuran and stirred under nitrogen at room temperature for 2 hours. The precipitated potassium salt of was collected by filtration, washed with a minimum of tetrahydrofuran, and dried in vacuo. A portion of this salt (275 mg, 0.618 mmol) was dissolved in 5 ml water, the pH was adjusted below 6 with concentrated hydrochloric acid, the product collected by filtration, washed with water, sucked dry under a blanket of dry nitrogen, and dried further in vacuo overnight (251 mg, 100%, 98% overall). 1H-NMR (400 MHz, DMSO-d6) δ 11.46 (br s, 1H), 7.74 (d, J=7.81 Hz, 1H), 7.67 (quartet, J=6.76 Hz, 1H), 7.52 (d, J=8.76, 1H), 7.364, (dt, J=10.18, 2.37 Hz, 1H), 7.24 (br s, 1H), 7.17 (br t, J=8.75, 1H), 6.74 (d, J=8.04 Hz, 1H), 5.39 (s, 2H). 19F-NMR (400 MHz, DMSO-d6) δ −109.26 (quintet, J=8.50 Hz, 1F), −113.52 (quartet, J=9.29 Hz, 1F), −118.06 (d, J=9.38 Hz, 1F). LC/MS tr=5.13 minutes (0-95% acetonitrile/water, 0.05% trifluoroacetic acid, over 6 minutes, then 95% acetonitrile for 2 minutes, at 1 ml/min with detection at 215 nm, at 50° C.) ES-MS m/z 407 (M+H). ES-HRMS m/z 407.0381 (M+H calcd for C19H11ClF3N2O3 requires 407.0405).

reactant | 4-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-2-oxopyridin-1(2H)-yl]-3,5-difluorobenzonitrile | 1.28 mmol, 522 mg | ClC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)C1=C(C=C(C#N)C=C1F)F)=O | C19H9ClF4N2O2
reactant | potassium | 4.60 mmol, 655 mg | [K] | K
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 4-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-2-oxopyridin-1(2H)-yl]-3-fluoro-5-hydroxybenzonitrile | ClC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)C1=C(C=C(C#N)C=C1O)F)=O | C19H10ClF3N2O3
